US08314240B2
148 mg of methyl 6-[({6-[(2-fluoropropyl)(pyridin-3-ylsulfonyl)amino]-2,3-dihydro-1H-inden-5-yl}oxy)methyl]nicotinate was dissolved in 3.00 mL of THF and 1.50 mL of methanol, and 1.50 mL of a 1 M aqueous sodium hydroxide solution was added thereto, followed by stirring overnight at room temperature. The reaction liquid was concentrated under reduced pressure, and to the obtained residue was added a 5% w/v aqueous citric acid solution, followed by extraction with chloroform. The organic layer was concentrated under reduced pressure, and the obtained crude product was crystallized by the addition of isopropanol/diisopropyl ether, collected by filtration, and dried under reduced pressure to obtain 79 mg of 6-[({6-[(2-fluoropropyl)(pyridin-3-ylsulfonyl)amino]-2,3-dihydro-1H-inden-5-yl}oxy)methyl]nicotinic acid.

reactant | methyl 6-[({6-[(2-fluoropropyl)(pyridin-3-ylsulfonyl)amino]-2,3-dihydro-1H-inden-5-yl}oxy)methyl]nicotinate | 148 mg | FC(CN(C1=C(C=C2CCCC2=C1)OCC1=NC=C(C(=O)OC)C=C1)S(=O)(=O)C=1C=NC=CC1)C | C25H26FN3O5S
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | THF | 3.00 mL | C1CCOC1 | C4H8O
solvent | methanol | 1.50 mL | CO | CH4O
product | 6-[({6-[(2-fluoropropyl)(pyridin-3-ylsulfonyl)amino]-2,3-dihydro-1H-inden-5-yl}oxy)methyl]nicotinic acid | 79 mg | FC(CN(C1=C(C=C2CCCC2=C1)OCC1=NC=C(C(=O)O)C=C1)S(=O)(=O)C=1C=NC=CC1)C | C24H24FN3O5S
